US08633173B2
203 c) {8-[4-(Dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-{3-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-phenyl}-amine was prepared from 2-chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine (75.0 mg, 0.245 mmol) and 3-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-phenylamine (78.0 mg, 0.276 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (21.0 mg, 0.0384 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as an off-white solid (0.078 g, 58%).

reactant | 2-chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine | 0.245 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)P(=O)(C)C)=N1 | C14H13ClN3OP
reactant | 3-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-phenylamine | 0.276 mmol, 78.0 mg | CS(=O)(=O)CCN1CCC(CC1)C=1C=C(C=CC1)N | C14H22N2O2S
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0384 mmol, 21.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | {8-[4-(Dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-{3-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-phenyl}-amine | CP(=O)(C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)C2CCN(CC2)CCS(=O)(=O)C)C | C28H34N5O3PS
